US05457196
Dissolve 5-(carboethoxy)-2,4,5,6-tetrahydro-cyclopenta[c]thiophene (6.68 g, 34.1 mmol) in ethanol (95%, 150 mL) and water (75 mL). Add potassium hydroxide (9.5 g, 0.17 mol) and stir at room temperature for 1 hour. Partition between water (150 mL) and ethyl ether (2×150 mL). Acidify the aqueous phase with hydrochloric acid to pH 1. Extract with methylene chloride (2×150 mL), dry (Na2SO4) and evaporate the solvent in vacuo to give 5-(carboxy)-2,4,5,6-tetrahydro-cyclopenta-[c]thiophene.

reactant | 5-(carboethoxy)-2,4,5,6-tetrahydro-cyclopenta[c]thiophene | 34.1 mmol, 6.68 g | C(=O)(OCC)C1CC=2C(=CSC2)C1 | C10H12O2S
reactant | potassium hydroxide | 0.17 mol, 9.5 g | [OH-].[K+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | water | 75 mL | O | H2O
product | 5-(carboxy)-2,4,5,6-tetrahydro-cyclopenta-[c]thiophene | C(=O)(O)C1CC=2C(=CSC2)C1 | C8H8O2S
